US04147693
15.8 pts. by wt. of 2-oxo-imidazolidine, 12.6 pts. by wt. of sodium nitrite and 27.5 pts. by wt. of zinc dust, and 15.8 pts. by wt. of furan-2-aldehyde, are reacted as in Example 1.1. 17.5 pts. by wt. of 1-furylideneamino-2-oxo-imidazolidine of melting point 218°-220° C. are obtained.

reactant | 2-oxo-imidazolidine | O=C1NCCN1 | C3H6N2O
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | furan-2-aldehyde | O1C(=CC=C1)C=O | C5H4O2
catalyst | zinc | [Zn] | Zn
product | 1-furylideneamino-2-oxo-imidazolidine | O1C(CC=C1)=NN1C(NCC1)=O | C7H9N3O2
